US08685977B2
4-(4-Chloro-2-methoxybenzyl)-2,5-difluoro-N-(methylsulfonyl)benzamide
4-(Bromomethyl)-2,5-difluoro-N-(methylsulfonyl)benzamide (Preparation 164, 100 mg, 0.27 mmol), (4-chloro-2-methoxyphenyl)boronic acid (55 mg, 0.295 mmol), tetrakis(triphenylphosphine)palladium (31 mg, 0.027 mmol), aqueous potassium carbonate solution (1.8 M, 0.45 mL, 0.804 mmol) and tetrahydrofuran (15 mL) were combined and stirred under nitrogen at reflux for 6 hours. After cooling, the mixture was filtered through Celite™ and the filtrate evaporated. The residue was dissolved in water (20 mL) and acidified with aqueous potassium hydrogen sulphate solution (0.5 M) to pH 2 and the mixture extracted with ethyl acetate (1×30 mL). The organic layer was separated and back-washed with brine (2×20 mL). The organic layer was separated, dried over sodium sulphate, filtered and evaporated to give an orange oil. The oil was purified using silica gel column chromatography eluting with heptane to ethyl acetate:heptane 1:1 to give a solid. The solid was further purified by reverse phase HPLC to give the title compound (38 mg, 36%) as a white solid.

reactant | 4-(Bromomethyl)-2,5-difluoro-N-(methylsulfonyl)benzamide | 0.27 mmol, 100 mg | BrCC1=CC(=C(C(=O)NS(=O)(=O)C)C=C1F)F | C9H8BrF2NO3S
reactant | (4-chloro-2-methoxyphenyl)boronic acid | 0.295 mmol, 55 mg | ClC1=CC(=C(C=C1)B(O)O)OC | C7H8BClO3
reactant | potassium carbonate | 0.804 mmol, 1.8 M, 0.45 mL | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.027 mmol, 31 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 4-(4-Chloro-2-methoxybenzyl)-2,5-difluoro-N-(methylsulfonyl)benzamide | 38 mg, 36% | ClC1=CC(=C(CC2=CC(=C(C(=O)NS(=O)(=O)C)C=C2F)F)C=C1)OC | C16H14ClF2NO4S
